### PR TITLE
Prove QuotientCPolynomial ↔ Polynomial ring equivalence

### LINKED ISSUE #95: Prove QuotientCPolynomial ↔ Polynomial isomorphism
Prove a ring isomorphism between `QuotientCPolynomial R` and Mathlib's `Polynomial R`.

`CPolynomial R` already has `ringEquiv` to `Polynomial R` in `ToPoly.lean`. ROADMAP.md Phase 1 specifies proving isomorphism between `QuotientCPolynomial`, `CPolynomialC`, and Mathlib's relevant `Polynomial` types. `QuotientCPolynomial` is the quotient of `Raw R` by coefficient-wise equivalence (identifying polynomials that differ only by trailing zeros), and should be isomorphic to `Polynomial R` in a way consistent with the existing `CPolynomial ↔ Polynomial` equivalence.

### PR DESCRIPTION
**Pull request by eliasjudin**
Closes #95.

This introduces `CompPoly/Univariate/QuotientEquiv.lean`, proving the ring equivalence
`QuotientCPolynomial R ≃+* Polynomial R` via quotient-lifted `toPoly` and inverse `ofPoly`.
The round-trip lemmas `toPoly_ofPoly` and `ofPoly_toPoly` establish the isomorphism
and the ring structure compatibility proofs close the additive and multiplicative obligations.

This PR adds proofs autoformalised by @Aristotle-Harmonic.

It proves that quotienting by trailing-zero equivalence yields the canonical polynomial object,
compatible with the existing `CPolynomial ↔ Polynomial` interface.

Co-authored-by: Aristotle (Harmonic) <aristotle-harmonic@harmonic.fun>

### CODE REVIEW

File: CompPoly/Fields/KoalaBear.lean [hunk 1]
```diff
@@ -177,29 +177,29 @@ lemma twoAdicGenerators_pow_twoPow_ne_one_of_lt
   exact twoAdicGenerators_pow_ne_one_aux bits ⟨m, hm_lt⟩ hm
 
 /-- The precomputed element at index `bits` is a primitive `2^bits`-th root of unity. -/
-lemma isPrimitiveRoot_twoAdicGenerator (n : Fin (twoAdicity + 1)) :
-    IsPrimitiveRoot (twoAdicGenerators[n]) (2 ^ (n : Nat)) := by
+lemma isPrimitiveRoot_twoAdicGenerator (bits : Fin (twoAdicity + 1)) :
+    IsPrimitiveRoot (twoAdicGenerators[bits]) (2 ^ (bits : Nat)) := by
```
Comment (dhsorens) [inline CompPoly/Fields/KoalaBear.lean]: I think this might be leftover from changes you made in your previous PR (looks like they undo changes you made)?
